### PR TITLE
[Merged by Bors] - feat(Analysis/Normed/Unbundled/SpectralNorm): add spectral norm

### PR DESCRIPTION
**Pull request by mariainesdff**
We define the spectral value and the spectral norm. We prove the norm extension theorem [S. Bosch, U. Güntzer, R. Remmert, *Non-Archimedean Analysis* (Theorem 3.2.1/2)][bosch-guntzer-remmert] : given a nonarchimedean normed field `K` and an algebraic extension `L/K`, the spectral norm is a power-multiplicative `K`-algebra norm on `L` extending
the norm on `K`. All `K`-algebra automorphisms of `L` are isometries with respect to this norm.
If `L/K` is finite, we get a formula relating the spectral norm on `L` with any other power-multiplicative norm on `L` extending the norm on `K`.

As a prerequisite, we formalize the proof of [S. Bosch, U. Güntzer, R. Remmert, *Non-Archimedean Analysis* (Proposition 3.1.2/1)][bosch-guntzer-remmert].

---

- [x] depends on: #23184
- [x] depends on: #23204
- [x] depends on: #23251
- [x] depends on: #23252
- [x] depends on: #23253
- [x] depends on: #23254
- [x] depends on: #23266

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Analysis/Normed/Unbundled/SpectralNorm.lean [hunk 1]
```diff
@@ -0,0 +1,666 @@
...
+/-- If `spectralNorm K L x = 0`, then `x = 0`. -/
+theorem eq_zero_of_map_spectralNorm_eq_zero {x : L} (hx : spectralNorm K L x = 0)
+    (hx_alg : IsAlgebraic K x) : x = 0 := by
+  by_contra h0
+  exact (ne_of_gt (spectralNorm_zero_lt h0 hx_alg)) hx
+
+/-- If `f` is a power-multiplicative `K`-algebra norm on `L` with `f 1 ≤ 1`, then `f`
+  is bounded above by `spectralNorm K L`. -/
+theorem norm_le_spectralNorm {f : AlgebraNorm K L} (hf_pm : IsPowMul f)
+    (hf_na : IsNonarchimedean f) (hf1 : f 1 ≤ 1) {x : L} (hx_alg : IsAlgebraic K x) :
```
Comment (kbuzzard) [inline Mathlib/Analysis/Normed/Unbundled/SpectralNorm.lean:429]: Doesn't `IsPowMul f` implies `f 1 <= 1`? Because `f 1` is a real number satisfying `f 1 = (f 1)^2` as 1=1^2, so it's 0 or 1. If I'm right you could pull this out as a sublemma on power multiplicative norms and then remove it as a hypothesis from this theorem.

File: Mathlib/Analysis/Normed/Unbundled/SpectralNorm.lean [hunk 2]
```diff
@@ -0,0 +1,666 @@
...
+/--
+If `L/K` is finite and normal, then `spectralNorm K L x = supr (λ (σ : L ≃ₐ[K] L), f (σ x))`. -/
+theorem spectralNorm_eq_iSup_of_finiteDimensional_normal
+    {f : AlgebraNorm K L} (hf_pm : IsPowMul f) (hf_na : IsNonarchimedean f)
+    (hf_ext : ∀ (x : K), f (algebraMap K L x) = ‖x‖) (x : L) :
+    spectralNorm K L x = ⨆ σ : L ≃ₐ[K] L, f (σ x) := by
+  classical
+  have hf1 : f 1 ≤ 1 := by
+    rw [← (algebraMap K L).map_one, hf_ext]
+    simp [nnnorm_one, NNReal.coe_one, le_refl]
```
Comment (kbuzzard) [inline Mathlib/Analysis/Normed/Unbundled/SpectralNorm.lean:454]:
```suggestion
  have hf1 : f 1 = 1 := by
    rw [← (algebraMap K L).map_one, hf_ext]
    simp [nnnorm_one, NNReal.coe_one]
```
You prove it's = 1 later on, why bother proving it's <= 1 now? Just prove it's = 1 now.

**Review by kbuzzard — APPROVED** [review]
Congratulations on this great result! It is one important step towards defining a perfectoid space with one element :-)

File: Mathlib/Analysis/Normed/Unbundled/SpectralNorm.lean [hunk 3]
```diff
@@ -0,0 +1,666 @@
...
+  rw [spectralNorm_eq_invariantExtension]
+  exact isNonarchimedean_invariantExtension K L
+
+/-- The spectral norm extends the norm on `K` when `L/K` is finite and normal. -/
+theorem spectralNorm_extends_of_finiteDimensional [IsUltrametricDist K] (x : K) :
+    spectralNorm K L (algebraMap K L x) = ‖x‖ := by
+  rw [spectralNorm_eq_invariantExtension, invariantExtension_extends K L x]
+
+/-- If `L/K` is finite and normal, and `f` is a power-multiplicative `K`-algebra norm on `L`
+  extending the norm on `K`, then `f = spectralNorm K L`. -/
```
[the remark this answers is not in the document]
Comment (mariainesdff) [reply Mathlib/Analysis/Normed/Unbundled/SpectralNorm.lean:535]: Yes, but that is proven in #23333.

File: Mathlib/Analysis/Normed/Unbundled/SpectralNorm.lean [hunk 4]
```diff
@@ -0,0 +1,647 @@
...
+  of `y : L` over `K`.
+* `spectralAlgNorm` : the spectral norm is a `K`-algebra norm on `L`.
+
+## Main Results
+
+* `norm_le_spectralNorm` : if `f` is a power-multiplicative `K`-algebra norm on `L`, then `f` is
+  bounded above by `spectralNorm K L`.
+* `spectralNorm_eq_of_equiv` : the `K`-algebra automorphisms of `L` are isometries with respect to
+  the spectral norm.
+* `spectralNorm_eq_iSup_of_finiteDimensional_normal` : iff `L/K` is finite and normal, then
```
Comment (erdOne) [inline Mathlib/Analysis/Normed/Unbundled/SpectralNorm.lean:47]:
```suggestion
* `spectralNorm_eq_iSup_of_finiteDimensional_normal` : if `L/K` is finite and normal, then
```
